US07199120B2
4-Iodo-2-(methylsulfanyl)pyrimidine (2.0 g, 8.1 mmol) was dissolved in anhydrous tetrahydrofuran (50 mL). To this solution was added triethylamine (1.4 mL, 10.1 mmol), copper (I) iodide (80 mg, 0.4 mmol) and dichlorobis(triphenylphosphine) palladium (II) (140 mg, 0.24 mmol). (Trimethylsilyl)acetylene (1.4 mL, 10.1 mmol) was added dropwise to the resulting solution. After the addition of (trimethylsilyl)acetylene was complete the reaction was stirred at room temperature for 2 hours. Hexane was added to the reaction mixture and the mixture was filtered to remove precipitates. The solution was concentrated to give a syrup, that was purified by silica gel chromatography (1:1 ethyl acetate:hexane) to give 1.76 g (99%) of 2-(methylsulfanyl)-4-[(trimethylsilyl)ethynyl]pyrimidine. 2-(Methylsulfanyl)-4-[(trimethylsilyl)ethynyl]pyrimidine (1.76 g, 8.0 mmol) was dissolved in methanol (60 mL). To this solution was added potassium fluoride (467 mg, 8.0 mmol) and the resulting mixture stirred at room temperature for 5 minutes. The solution was concentrated and ethyl acetate and water were added. The phases were separated and the aqueous phase extracted with additional ethyl acetate. The organics were combined, dried over magnesium sulfate, filtered and concentrated to give 1.0 g (83%) of 4-ethynyl-2-(methylsulfanyl)pyrimidine as a white solid. 1H NMR (CDCl3): δ 8.51 (d, 1H), 7.06 (d, 1H), 3.34 (s, 1H), 2.56 (s, 3H); MS m/z 151 (M+1).

reactant | 2-(Methylsulfanyl)-4-[(trimethylsilyl)ethynyl]pyrimidine | 8.0 mmol, 1.76 g | CSC1=NC=CC(=N1)C#C[Si](C)(C)C | C10H14N2SSi
reactant | potassium fluoride | 8.0 mmol, 467 mg | [F-].[K+]
solvent | methanol | 60 mL | CO | CH4O
product | 4-ethynyl-2-(methylsulfanyl)pyrimidine | 1.0 g, 83% | C(#C)C1=NC(=NC=C1)SC | C7H6N2S
